US07084178B2
Chlorotrimethylsilane (3.96 mL, 31.2 mmol) was added dropwise to cis-2-aminocycloheptanecarboxylic acid (2.45 g, 15.6 mmol) in methanol (25 mL) at room temperature under nitrogen. After stirring for 2 h, the solvent was evaporated in vacuo and the residue was triturated with ether. The white solid was filtered and then dried under vacuum overnight to provide (1.65 g) cis-2-aminocycloheptanecarboxylic acid methyl ester: 1H NMR (CDCl3) δ 8.44 (s br, 2 H), 3.77 (s, 3 H), 3.62 (s br, 1 H), 3.27 (s br, 1 H), 2.20 (m, 2 H), 1.71 (m, 2 H), 1.66–1.47 (m, 6 H); MS m/e 172.26 (M+H)+.

reactant | Chlorotrimethylsilane | 31.2 mmol, 3.96 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | cis-2-aminocycloheptanecarboxylic acid | 15.6 mmol, 2.45 g | N[C@@H]1[C@@H](CCCCC1)C(=O)O | C8H15NO2
solvent | methanol | 25 mL | CO | CH4O
product | cis-2-aminocycloheptanecarboxylic acid methyl ester | 1.65 g | COC(=O)[C@H]1[C@H](CCCCC1)N | C9H17NO2
